US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 3-ethylaniline to yield 2-[(3-ethylphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 3-ethylaniline | C(C)C=1C=C(N)C=CC1 | C8H11N
product | 2-[(3-ethylphenyl)amino]phenylacetic acid | C(C)C=1C=C(C=CC1)NC1=C(C=CC=C1)CC(=O)O | C16H17NO2
